* XPhase Topology B export
* Plain .cir netlist for independent AC verification.
* Frequency: 7015000 Hz
* Vsrc is the Thevenin source voltage with Rsrc=50 ohms.
* With a matched input, the network receives output_power_watts.
* Inspect V(port2)/V(port1) for the phasing target.
* Phase inspection: plot phase(V(port2)/V(port1)) at the operating frequency.
* Inspect V(input)/I(Vsrc) with source resistance de-embedded for input impedance.
Vsrc input_src 0 AC 141.421356237
Rsrc input_src input 50

* Input matching section
* Match label: B-LP, shunt-then-series
RCm_shunt_ESR input cm_shunt_esr 0.012889332538
Cm_shunt cm_shunt_esr 0 1.76020004546e-09
RLm_series_ESR input lm_series_esr 0.0935425830996
Lm_series lm_series_esr split 5.30568941193e-07

* Topology A branch networks
RL1_ESR split l1_esr 0.0091653902551
L1 l1_esr port1 5.198564378e-08
RC1_ESR port1 c1_esr 0.0205027038564
C1 c1_esr 0 1.10657618031e-09
RC2_ESR split c2_esr 0.0464483944105
C2 c2_esr port2 4.88451840099e-10
RL2_ESR port2 l2_esr 1.28697869356
L2 l2_esr 0 7.29967999763e-06

* Complex antenna/feedline port loads
Rload1 port1 load1_x 74.3166
Cload1 load1_x 0 6.04299054961e-10
Rload2 port2 load2_x 17.733
Lload2 load2_x 0 1.0515797024e-07

* AC analysis around the operating frequency
.ac dec 101 5612000 8418000

* Measurement/inspection helpers
.meas ac Vratio_mag PARAM mag(V(port2)/V(port1))
.meas ac Vport1_mag PARAM mag(V(port1))
.meas ac Vport2_mag PARAM mag(V(port2))
.meas ac Ibranch1_mag PARAM mag(I(L1))
.meas ac Ibranch2_mag PARAM mag(I(C2))
* Capacitor voltage checks: V(port1), V(split,port2), and input-match capacitor node pair.
* Inductor current checks: I(L1), I(L2), and input-match inductor current.
* SWR check: compute Zin from input-node voltage/current after accounting for Rsrc.
.end
